US06518257B1
(ii) Production of (4-bromophenyl) (1-trityl-1H-imidazol-4-yl)methanone
By the reaction in the same manner as in Example 24-(iii) using (4-bromophenyl)(1-trityl-1H-imidazol-4-yl)methanol (30.0 g) and manganese dioxide (52.6 g), the title compound (23.3 g) was obtained as colorless powder crystals.

reactant | (4-bromophenyl)(1-trityl-1H-imidazol-4-yl)methanol | 30.0 g | BrC1=CC=C(C=C1)C(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H23BrN2O
catalyst | manganese dioxide | 52.6 g | [O-2].[O-2].[Mn+4]
product | (4-bromophenyl) (1-trityl-1H-imidazol-4-yl)methanone | 23.3 g | BrC1=CC=C(C=C1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H21BrN2O
